RC circuit transient

* describe circuit
* <element name> <nodes list> <value>
r1 1 2 1k
c 2 0 1u

* voltage_nodename positive_node negative_node dc_value/function
    * v 1 0 5
* sine voltage: sin(offset amplitude frequency time_delay damping_factor)
    * v 1 0 sin(0 2 1k 0 0)
* peicewise linear: pwl(time1 value1 time2 value2 ...)
    * v 1 0 pwl(0 0 10m 0 11m 5 20m 5)
* ac analysis: dc dc_val ac ac_val
    * v 1 0 dc 0 ac 1
v 1 0 pwl(0 0 10m 0 11m 5 20m 5)

* dc analysis: dc node_name initial_value final_value step
    * .dc v 0 5 0.1
* transient analysis: tran timestep end_time
    * .tran 10u 20m
* ac analysis: ac lin/dec num_points start_freq end_freq
    * .ac dec 10 1 1k
.tran 10u 20m

* start control
.control

run

* plot vdb(2); plots magnitude in dB
* plot phase(v(2)); plots phase of v(2)
* plot i(v); plots current through voltage_element v, only voltage elements allowed
plot vdb(2)

* end control
.endc

.end